US09144239B2
Step 2: Preparation of (2S,3S)-2,3-bis((2-methylallyl)oxy)butane-1,4-diol
To a solution of (2R,3R)-dimethyl 2,3-bis((2-methylallyl)oxy)succinate (14.7 g, 51.3 mmol) in THF (130 mL) at 0° C. was added slowly a 1.0 M solution of LAH in THF (257 mL, 257 mmol). The mixture was warmed to room temperature and stirred for 2 h, carefully quenched by the addition of EtOAc at 0° C., and then treated with a saturated aqueous solution of potassium sodium tartrate (Rochelle's salt). The phases were separated and the aqueous layer was extracted with EtOAc. The combined organic phases were washed with brine, dried over Na2SO4, filtered, and concentrated. The residue was purified by flash chromatography (SiO2, hexanes/EtOAc gradient) to yield the title compound as a colorless oil (10.87 g, 92%): IR (neat) 3388, 2918, 2880, 1656, 1452, 1046 cm−1; 1H NMR (400 MHz, CDCl3) δ 4.98 (s, 2H), 4.90 (s, 2H), 4.03 (s, 4H), 3.81 (d, J=11.7 Hz, 2H), 3.71 (d, J=11.9 Hz, 2H), 3.64-3.59 (m, 2H), 2.57-2.47 (m, 2H), 1.75 (s, 6H); 13C NMR (101 MHz, CDCl3) δ 142.16, 112.85, 78.75, 74.52, 60.85, 19.68; HRMS-ESI (m/z) [M]+ calcd for C12H22O4, 230.1518; found, 230.1519.

reactant | (2R,3R)-dimethyl 2,3-bis((2-methylallyl)oxy)succinate | 51.3 mmol, 14.7 g | CC(CO[C@@H](C(=O)OC)[C@H](C(=O)OC)OCC(=C)C)=C | C14H22O6
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 130 mL | C1CCOC1 | C4H8O
solvent | THF | 257 mmol, 257 mL | C1CCOC1 | C4H8O
product | (2S,3S)-2,3-bis((2-methylallyl)oxy)butane-1,4-diol | 10.87 g, 92% | CC(CO[C@@H](CO)[C@H](CO)OCC(=C)C)=C | C12H22O4
